US06476041B1
2-[3-(3-Benzyl-8-aza-bicyclo[3.2.1]oct-8-yl)-propyl]-1H-benzimidazole:
A mixture of 0.4 g of 3-{2-[3-(4-benzyl-piperidin-1-yl)-propyl]-benzoimidazol-1-yl}-propionitrile, 20 mL of isopropanol and 2 mL of 0.4 M sodium in isopropanol was heated to reflux for 2 h. Conversion was complete by TLC (80:20:1 ethyl acetate:methanol:triethylamine). The mixture was cooled, diluted with 10 mL of saturated sodium bicarbonate and concentrated. The residue was partitioned between 3×100 mL of chloroform and 50 mL of water. After drying over magnesium sulfate and concentration under reduced pressure, the residue was purified by preparative TLC eluting with 400:100:25 ethyl acetate:methanol:triethylamine. The major band (UV visualization) was 2-[3-(4-benzyl-piperidin-1-yl)-propyl]-1H-benzimidazole (220 mg): MS (m+1)=334.2; 1H NMR (400 MHz, CDCl3) 7.4 (d, 2H), 7.32 (m, 2H), 7.25 (m, 1H), 7.2 (m, 4H), 3.1 (m, 4H), 2.65 (m, 2H), 2.6 (m, 2H), 2.1 (m, 2H), 2.0 (m, 2H), 1.8 (m, 2H), 1.7 (m, 1H), 1.5 (m, 2H).

reactant | 3-{2-[3-(4-benzyl-piperidin-1-yl)-propyl]-benzoimidazol-1-yl}-propionitrile | 0.4 g | C(C1=CC=CC=C1)C1CCN(CC1)CCCC1=NC2=C(N1CCC#N)C=CC=C2 | C25H30N4
reactant | sodium | 0.4 M, 2 mL | [Na] | Na
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | methanol | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2-[3-(3-Benzyl-8-aza-bicyclo[3.2.1]oct-8-yl)-propyl]-1H-benzimidazole | C(C1=CC=CC=C1)C1CC2CCC(C1)N2CCCC2=NC1=C(N2)C=CC=C1 | C24H29N3
